US03959322
13β-Ethyl-17β-(3-cyclopentylpropionoxy)-gon-4-en-3-one
Add 3-cyclopentylpropionyl chloride (2 g.) in benzene (6 cc.) to 13β-ethyl-17β-hydroxy-gon-4-en-3-one (2 g.) in pyridine (6 cc.) at -15°. Keep the mixture at -10° for 17 hours, work up and recrystallize the product from methanol to give the title compound, m.p. 88-89°; ultraviolet absorption peak at 241 mμ (ε17,000); infrared absorption peaks at 5.80; 6.00, 6.18 μ.

reactant | 3-cyclopentylpropionyl chloride | 2 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 13β-ethyl-17β-hydroxy-gon-4-en-3-one | 2 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
solvent | benzene | 6 cc | C1=CC=CC=C1 | C6H6
solvent | pyridine | 6 cc | N1=CC=CC=C1 | C5H5N
product | 13β-Ethyl-17β-(3-cyclopentylpropionoxy)-gon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(CCC2CCCC2)=O | C27H40O3
